US06288120B1
Tetrakis(triphenylphosphine)palladium(0) (637 mg, 0.551 mmol), Na2CO3 (5 mL, 1M) and 4-methylbenzene boronic acid (1.5 g, 11.0 mmol) were added to a solution of 2-chloroiodobenzene (1.315 g, 5.514 mmol) in toluene (98 mL) and EtOH (20 mL). The reaction mixture was heated at reflux for 3 h. The cooled solution was diluted with EtOAc, and the organic solution was washed with water (2×) followed by brine (1×). The organic solution was dried over MgSO4, filtered, and concentrated in vacuo. The product was purified by flash chromatography (hexanes to 10% EtOAC/hexanes) to afford 4′-methyl-2-chloro-biphenyl (1.08 g). 1H NMR (CDCl3 400 MHz) δ 7.49-7.21 (m, 8H), 2.39 (s, 3H).

reactant | Na2CO3 | 1M, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methylbenzene boronic acid | 11.0 mmol, 1.5 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | 2-chloroiodobenzene | 5.514 mmol, 1.315 g | ClC1=C(C=CC=C1)I | C6H4ClI
solvent | toluene | 98 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.551 mmol, 637 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-methyl-2-chloro-biphenyl | 1.08 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C13H11Cl
